US05447925
3-Bromo-4,5-dimethoxybenzaldehyde (4.9 g) in THF (30 ml) was added over 10 minutes and the mixture cooled to 31 75° . Further n-butyllithium (20 ml) was then added, and the mixture stirred at -75° for 80 minutes, before adding dimethyldisulphide (2.7 g) by syringe. The mixture was stirred for 1.5 hours, allowing the temperature to rise to ambient, then treated with an aqueous solution of ammonium chloride (50 ml) and the organic layer separated. The aqueous layer was extracted with ethyl acetate and the combined organic layers washed with brine, and dried over NaSO4. Crude product was purified by chromatography on silica, eluting with 10% ethyl acetate in hexane, to give 3,4-dimethoxy-5-methylthiobenzaldehyde (3.4 g): NMR (CDCl3): δ2.49 (s, 3H); 3.94 (s, 3H); 3.96 (s, 3H); 7.25 (d, 1H); 7.28 (d, 1H); 9.89 (s, 1H).

reactant | 3-Bromo-4,5-dimethoxybenzaldehyde | 4.9 g | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | n-butyllithium | 20 ml | C(CCC)[Li]
reactant | dimethyldisulphide | 2.7 g | CSSC | C2H6S2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3,4-dimethoxy-5-methylthiobenzaldehyde | 3.4 g | COC=1C=C(C=S)C=C(C1OC)C | C10H12O2S
